US08026234B2
2-Chloro-9-cyclopentyl-7-fluoro-5-methyl-7-vinyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one:
2-Chloro-9-cyclopentyl-7-ethylidene-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (1.01 g, 3.30 mmol) in dry tetrahydrofuran (10 mL) was added to 1:1 molar 2 M lithium diisopropyl amide in tetrahydrofuran and hexamethyl phosphoramide (HMPA) (3.96 mmol each) in tetrahydrofuran (5 mL) at −78° C. After 20 minutes, N-fluorobenzene sulfonimide (2.46 mmol) was added dropwise to it. Continued the reaction at −78° C. for 30 minutes, and then elevated the temperature to 0° C. for 30 minutes. After disappearing the starting material, cooled the reaction flask to −78° C., then quenched with sat. ammonium chloride solution (6 mL). At room temperature, the resultant reaction mixture was taken into ethyl acetate (70 mL), washed with ammonium chloride solution and finally with water, dried over sodium sulphate and evaporated. Purified the product using column chromatography with hexane:ethyl acetate mixtures to give the product. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.53-2.10 (m, 8H) 3.38 (s, 3H) 3.63-3.88 (m, 1H) 4.12 (m, 1H) 4.96 (quin, J=8.59 Hz, 1H) 5.41 (d, J=11.12 Hz, 1H) 5.49 (dd, J=17.18, 2.02 Hz, 1H) 6.02 (ddd, J=17.37, 14.72, 10.86 Hz, 1H) 7.97 (s, 1H). [M+H] calculated for C15H18ClFN4O, 325. found 325.

reactant | 2-Chloro-9-cyclopentyl-7-ethylidene-5-methyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 3.30 mmol, 1.01 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)=CC)C2CCCC2)N1 | C15H19ClN4O
reactant | lithium diisopropyl amide | 1 molar | C(C)(C)[N-]C(C)C.[Li+]
reactant | hexamethyl phosphoramide | 3.96 mmol | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | N-fluorobenzene sulfonimide | 2.46 mmol | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-9-cyclopentyl-7-fluoro-5-methyl-7-vinyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C=C)F)C2CCCC2)N1 | C15H18ClFN4O
